US07897762B2
To suspension 2-chloro-5-((4-fluoro-2-methyl-5-nitrophenylamino)methyl)-N-methylpyridin-4-amine (2.04 g, 6.28 mmol) in dioxane (30 mL) was added Et3N (3.50 mL, 25 mmol) and phosgene (20% solution in toluene, 6.90 mL, 12.6 mmol). The reaction mixture was stirred at RT for 2.5 h. Water 30 mL) was added and the mixture was extracted with EtOAc (2×70 mL). The combined organics were washed with brine (15 mL), dried (MgSO4) and concentrated in vacuo. The residue was stirred with EtOAC for 15 min and the precipitate was collected by filtration and dried in vacuo to give 7-chloro-3-(4-fluoro-2-methyl-5-nitrophenyl)-1-methyl-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one (0.785 g, 36% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.31 (s, 1H), 8.11 (s, 1H), 7.61 (s, 1H), 7.15 (s, 1H), 4.94 (s, 1H), 4.61 (s, 1H), 3.26 (s, 3H), 2.22 (s, 3H); MS (ESI) m/z: 351.0 [M+H+].

reactant | 2-chloro-5-((4-fluoro-2-methyl-5-nitrophenylamino)methyl)-N-methylpyridin-4-amine | 6.28 mmol, 2.04 g | ClC1=NC=C(C(=C1)NC)CNC1=C(C=C(C(=C1)[N+](=O)[O-])F)C | C14H14ClFN4O2
reactant | Et3N | 25 mmol, 3.50 mL | CCN(CC)CC | C6H15N
reactant | phosgene | 12.6 mmol, 6.90 mL | C(=O)(Cl)Cl | CCl2O
reactant | Water | 30 mL | O | H2O
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 7-chloro-3-(4-fluoro-2-methyl-5-nitrophenyl)-1-methyl-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one | 0.785 g, 36% yield | ClC1=CC=2N(C(N(CC2C=N1)C1=C(C=C(C(=C1)[N+](=O)[O-])F)C)=O)C | C15H12ClFN4O3
